US04797419
Diphenylcarbamic chloride (23 g, 0.1 mol, Aldrich Chemical Co., Milwaukee, Wis., U.S.A.) was added to a solution of 10.1 g of triethylamine and 9.3 g (0.1 mol) of benzeneamine in 150 ml of chloroform. The resulting solution was heated under reflux overnight. The solution was cooled to room temperature and washed three times with 100-ml portions of brine solution, dried over anhydrous magnesium sulfate, and evaporated to give an off-white solid which was triturated with diethyl ether to give triphenylurea as a white solid, mp 136°-138° C.

reactant | Diphenylcarbamic chloride | 0.1 mol, 23 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | benzeneamine | 0.1 mol, 9.3 g | C1(=CC=CC=C1)N | C6H7N
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | triphenylurea | C1(=CC=CC=C1)NC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H16N2O
